US05776940
Propyl isocyanate (Aldrich, 42 mL, 0.442 mol) was added dropwise to a solution of cyclohexanemethylamine (Aldrich, 50.1 g, 0.442 mol) in anhydrous benzene (800 mL) at 0° C. under nitrogen. The solution was then stirred for 15 min before being concentrated in vacuo to a volume of 250 mL. The colorless crystals which formed upon standing at 0° C. were filtered off, washed with hexanes (2×70 mL), and dried (0.5 Torr) to give 1-(cyclohexylmethyl)-3-propylurea (83.90 g, 96%), m.p. 60°-61° C.; 1H-NMR (DMSO-d6) consistent with structure.

reactant | Propyl isocyanate | 0.442 mol, 42 mL | C(CC)N=C=O | C4H7NO
reactant | cyclohexanemethylamine | 0.442 mol, 50.1 g | C1(CCCCC1)CN | C7H15N
solvent | benzene | 800 mL | C1=CC=CC=C1 | C6H6
product | 1-(cyclohexylmethyl)-3-propylurea | 83.90 g, 96% | C1(CCCCC1)CNC(=O)NCCC | C11H22N2O
